US05843983
5(a) (2R,4R)-1-t-Butoxycarbonyl-4-t-butyldimethylsilyloxy-2-{2-[4-fluoro-2-(2-phenylethyl)phenoxy]ethyl}pyrrolidine
1090 mg of 4-fluoro-2-(2-phenylethyl)phenol (prepared as described in Preparation 3), 1870 mg of (2S,4R)-2-(2-bromoethyl)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxypyrrolidine and 566 mg of potassium t-butoxide were allowed to react together in 10 ml of N,N-dimethylacetamide, and the resulting mixture was extracted in the same manner as described in step (a) of Example 2. The resulting oily substance was purified by silica gel column chromatography, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 2090 mg (yield 84%) of the title compound as a colorless oily substance.

reactant | 4-fluoro-2-(2-phenylethyl)phenol | 1090 mg | FC1=CC(=C(C=C1)O)CCC1=CC=CC=C1 | C14H13FO
reactant | (2S,4R)-2-(2-bromoethyl)-1-t-butoxycarbonyl-4-t-butyldimethylsilyloxypyrrolidine | 1870 mg | BrCC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C17H34BrNO3Si
reactant | potassium t-butoxide | 566 mg | CC(C)([O-])C.[K+]
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | (2R,4R)-1-t-Butoxycarbonyl-4-t-butyldimethylsilyloxy-2-{2-[4-fluoro-2-(2-phenylethyl)phenoxy]ethyl}pyrrolidine | 2090 mg, yield 84% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCOC1=C(C=C(C=C1)F)CCC1=CC=CC=C1 | C31H46FNO4Si
